US09024032B2
3-Hydroxy-1-[2-(4-methoxyphenyl)-1H-benzimidazol-5-yl]pyridin-4(1H)-one (2)
3-(Benzyloxy)-1-[2-(4-methoxyphenyl)-1H-benzimidazol-5-yl]pyridin-4(1H)-one (912 mg, 10 mmol) and 10% Pd/C (100 mg) in EtOH (300 mL) was stirred under an H2 balloon for 3 hours. After this time, LCMS indicated that the reaction was complete. After evacuation and purge with N2 (3×), the EtOH solution was heated at 60° C. for 1 h, filtered, and the catalyst was washed with EtOH (4×50 mL). The combined EtOH solution was concentrated to provide the desired product 3-hydroxy-1-[2-(4-methoxyphenyl)-1H-benzimidazol-5-yl]pyridin-4(1H)-one as a slightly yellow solid. 1H NMR (500 MHz, DMSO): δ 13.05 (s, broad, 1 H); 8.15 (d, J=8.3 Hz, 2 H); 7.89 (d, J=6.9 Hz, 1 H); 7.71 (m, 3 H); 7.34 (d, J=7.9 Hz, 1 H); 7.13 (d, J=8.6 Hz, 2 H); 6.32 (d, J=7.3 Hz, 1 H); 3.85 (s, 3 H); LCMS (M+H)+ 334; HRMS Calcd for (C19H15N3O3+H)+ 334.1186. Found 334.1188.

reactant | 3-(Benzyloxy)-1-[2-(4-methoxyphenyl)-1H-benzimidazol-5-yl]pyridin-4(1H)-one | 10 mmol, 912 mg | C(C1=CC=CC=C1)OC1=CN(C=CC1=O)C1=CC2=C(NC(=N2)C2=CC=C(C=C2)OC)C=C1 | C26H21N3O3
solvent | EtOH | 300 mL | CCO | C2H6O
catalyst | Pd/C | 100 mg | [Pd] | Pd
product | 3-hydroxy-1-[2-(4-methoxyphenyl)-1H-benzimidazol-5-yl]pyridin-4(1H)-one | OC1=CN(C=CC1=O)C1=CC2=C(NC(=N2)C2=CC=C(C=C2)OC)C=C1 | C19H15N3O3
